US06770646B2
b) Trimethylsilylmethyl 2-(1-hydroxy-3-methylbutyl)furan-3-carboxylate
2-(1-Hydroxy-3-methylbutyl)furan-3carboxylic acid (800 mg) was dissolved in dichloromethane (30 ml) an d a solution of trimethysilyldiazomethane (2M in hexane, 2.1 ml) was added. The mixture was stirred for 20 h, then diluted with dichloromethane and washed twice with hydrochloric acid. The organic phase was washed with brine, then dried, filtered and evaporated. Chromatography, eluting with diethylether:isohexane (1:1), gave the sub-title compound (435 mg).

reactant | 2-(1-Hydroxy-3-methylbutyl)furan-3carboxylic acid | 800 mg | OC(CC(C)C)C=1OC=CC1C(=O)O | C10H14O4
reactant | trimethysilyldiazomethane | 2M, 2.1 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Trimethylsilylmethyl 2-(1-hydroxy-3-methylbutyl)furan-3-carboxylate | 435 mg | OC(CC(C)C)C=1OC=CC1C(=O)OC[Si](C)(C)C | C14H24O4Si
